* TSMC 65nm Cascode Miller OTA Simulation - Monte Carlo
* Based on TB_MC.cir from TP6
* December 2024
*-----------------------------------------------

************************************
*	Library & Technology settings
************************************

* Library used for Monte-Carlo simulations
.LIB key=K1 '/dir/TECHNOLOGY/cds2024/TSMC-N65/CMOS/LP/pdk/models/eldo/toplevel.eldo' mismatch_lib

************************************
*	Include circuit definition
************************************

.include ./CascodeMillerOTA.cir

*******************************
*	Supply
*******************************

*** Supply voltage
VVDD VDD GND DC vdd_val

*******************************
*	Stimuli
*******************************

*** Input Voltages Sources - Pseudo closed-loop operation
VSTB INm OUT
VVINp INP 0 DC VIN
.LSTB VSTB
*** See TP5 for more details

**********************************
*	Measurements
**********************************

.extract DC label=IN V(INp)
.extract DC label=VINp V(INp)
.extract DC label=VINm V(INm)
.extract DC label=VOUT V(OUT)
.extract DC label=V_error 'V(OUT)-V(INp)'

*** Input pair M1/M2
.extract DC label=VGS1 VGS(xM1.MAIN)
.extract DC label=VGS2 VGS(xM2.MAIN)
.extract DC label=VDS1 VDS(xM1.MAIN)
.extract DC label=VDS2 VDS(xM2.MAIN)

*** Active load M3/M4
.extract DC label=VSG3 -VGS(xM3.MAIN)
.extract DC label=VSG4 -VGS(xM4.MAIN)

*** Cascode transistors M5/M6
.extract DC label=VDS5 VDS(xM5.MAIN)
.extract DC label=VDS6 VDS(xM6.MAIN)

*** Current source transistors M7/M8
.extract DC label=VDS7 VDS(xM7.MAIN)
.extract DC label=VDS8 VDS(xM8.MAIN)

*** Output stage M9/M10
.extract DC label=VSG9 -VGS(xM9.MAIN)
.extract DC label=VDS9 -VDS(xM9.MAIN)
.extract DC label=VDS10 VDS(xM10.MAIN)

*** Bias transistors M11-M15
.extract DC label=VSG11 -VGS(xM11.MAIN)
.extract DC label=VGS13 VGS(xM13.MAIN)
.extract DC label=VGS14 VGS(xM14.MAIN)
.extract DC label=VGS15 VGS(xM15.MAIN)

*** Currents
.extract DC label=ID1 I(xM1.MAIN.D)
.extract DC label=ID2 I(xM2.MAIN.D)
.extract DC label=ID5 I(xM5.MAIN.D)
.extract DC label=ID6 I(xM6.MAIN.D)
.extract DC label=ID9 I(xM9.MAIN.S)
.extract DC label=ID10 I(xM10.MAIN.D)

* (gm/ID)'s 
.extract DC label=gm_over_ID1 'gm(xM1.MAIN)/ID1'
.extract DC label=gm_over_ID2 'gm(xM2.MAIN)/ID2'
.extract DC label=gm_over_ID5 'gm(xM5.MAIN)/ID5'
.extract DC label=gm_over_ID9 'gm(xM9.MAIN)/ID9'

* Power consumption
.extract DC label=Power '-V(VDD)*I(VVDD)'

* Region of operation (0=cutoff, 1=linear, 2=saturation, 3=subthreshold)
.extract DC label=M1 opmode(xM1.MAIN)
.extract DC label=M2 opmode(xM2.MAIN)
.extract DC label=M3 opmode(xM3.MAIN)
.extract DC label=M4 opmode(xM4.MAIN)
.extract DC label=M5 opmode(xM5.MAIN)
.extract DC label=M6 opmode(xM6.MAIN)
.extract DC label=M7 opmode(xM7.MAIN)
.extract DC label=M8 opmode(xM8.MAIN)
.extract DC label=M9 opmode(xM9.MAIN)
.extract DC label=M10 opmode(xM10.MAIN)
.extract DC label=M11 opmode(xM11.MAIN)
.extract DC label=M12 opmode(xM12.MAIN)
.extract DC label=M13 opmode(xM13.MAIN)
.extract DC label=M14 opmode(xM14.MAIN)
.extract DC label=M15 opmode(xM15.MAIN)

.extract DC label=gm1 gm(xM1.MAIN)
.extract DC label=Vth1 Vth(xM1.MAIN)


*** Gain

.plot AC LSTB_DB LSTB_P


* magnitude in dB
.extract AC label=Av0dB 'max(LSTB_DB)'
* absolute magnitude
.extract AC label=Av0 '10^(Av0dB/20)'

*** Transition Frequency
* Real value from AC simulation
.extract AC label=fT 'xthres(LSTB_DB,0)'

.extract AC label=Phase_Margin '180 - yval(LSTB_P,1) + xycond(LSTB_P,LSTB_DB<0)'


**********************************
*	Simulations
**********************************

.OP

.param fmin_mc = 1
.param fmax_mc = 1Giga
.AC dec 100 fmin_mc fmax_mc


***** Monte-Carlo Analysis ******

* #com

* Allows multi-core processing to speed the simulation up
.mprun all max_nbjobs=4 queue=YES logfile=NO

.param Nruns = 1000
.MC Nruns ALL NONOM SEED=53 OUTER
* /!\ Always compute statistics of absolute quantity (i.e. NOT in dB, for Av0)

*** Mean values
.extract MC label=mean_Av0 mcavg(Av0)
.extract MC label=mean_fT mcavg(fT)
.extract MC label=mean_PM mcavg(Phase_Margin)
.extract MC label=mean_Verror mcavg(V_error)
.extract MC label=mean_Power mcavg(Power)
.extract MC label=mean_Vth1 mcavg(Vth1)

*** Standard deviations
.extract MC label=std_Av0 mcstd(Av0)
.extract MC label=std_fT mcstd(fT)
.extract MC label=std_PM mcstd(Phase_Margin)
.extract MC label=std_Verror mcstd(V_error)
.extract MC label=std_Power mcstd(Power)
.extract MC label=std_Vth1 mcstd(Vth1)

*** Min/Max values for yield analysis
.extract MC label=min_Av0 mcmin(Av0)
.extract MC label=max_Av0 mcmax(Av0)
.extract MC label=min_fT mcmin(fT)
.extract MC label=max_fT mcmax(fT)
.extract MC label=min_PM mcmin(Phase_Margin)
.extract MC label=max_PM mcmax(Phase_Margin)
.extract MC label=min_Verror mcmin(V_error)
.extract MC label=max_Verror mcmax(V_error)

*** Print results to file (only direct MC extracts, not calculated expressions)
.printfile MC meas(mean_Av0) meas(std_Av0) meas(min_Av0) meas(max_Av0) file=MC_Av0.txt format=data
.printfile MC meas(mean_fT) meas(std_fT) meas(min_fT) meas(max_fT) file=MC_fT.txt format=data
.printfile MC meas(mean_PM) meas(std_PM) meas(min_PM) meas(max_PM) file=MC_PM.txt format=data
.printfile MC meas(mean_Verror) meas(std_Verror) meas(min_Verror) meas(max_Verror) file=MC_Verror.txt format=data
.printfile MC meas(mean_Power) meas(std_Power) file=MC_Power.txt format=data
.printfile MC meas(mean_Vth1) meas(std_Vth1) file=MC_Vth1.txt format=data
* Duplicate lowercase filenames expected by plotting scripts
.printfile MC meas(mean_Av0) meas(std_Av0) meas(min_Av0) meas(max_Av0) file=mc_Av0.txt format=data
.printfile MC meas(mean_fT) meas(std_fT) meas(min_fT) meas(max_fT) file=mc_fT.txt format=data
.printfile MC meas(mean_PM) meas(std_PM) meas(min_PM) meas(max_PM) file=mc_PM.txt format=data
.printfile MC meas(mean_Verror) meas(std_Verror) meas(min_Verror) meas(max_Verror) file=mc_offset.txt format=data
.printfile MC meas(mean_Power) meas(std_Power) file=mc_Power.txt format=data
.printfile MC meas(mean_Vth1) meas(std_Vth1) file=mc_Vth1.txt format=data
* Per-run Monte Carlo raw values were removed to avoid invalid .printfile syntax; use MC_* summary files or reconfigure simulation to output per-run data correctly.

*** Per-run Monte Carlo exports
* The following lines attempt to export per-run measured values (one row per MC run).
* Eldo accepts `meas(<measure>)` inside .printfile MC to output the measure value for each run.
* If your Eldo version accepts this, these files will contain a column per measure per run.
.printfile MC meas(Av0) meas(fT) meas(Phase_Margin) meas(V_error) file=mc_raw.txt format=data
.printfile MC meas(Av0) meas(fT) meas(Phase_Margin) meas(V_error) file=MC_raw.txt format=data

* #endcom

.end
